US06214826B1
7-Chloro-4-hydroxy-5,10-dihydro-2-(4′-methylphenyl)pyridazino[4,5-b]quinoline-1-one.
To a suspension of 7-chloro-4-hydroxy-2-(4′-methylphenyl)-1,2,5,10-tetrahydropyridazino[4,5-b]quinoline-1,10-dione (495 mg, 1.4 mmol) in tetrahydrofuran (25 mL) was added trifluoroacetic acid (4.5 ml, 58 mmol). The mixture was cooled to 0° C. with an ice bath and sodium borohydride (290 mg, 7.7 mmol) was added. The resulting solution was stirred at 0° C. for 15 minutes, the cooling bath removed, and the reaction mixture was allowed to warm to room temperature. This was then stirred at room temperature for 3 hours after which the reaction was diluted with cold water (65 mL) and stirred for an additional 10 minutes. After this time, the resulting white mixture was extracted with ethyl acetate (120 mL). The organic phase was washed with water (25 mL), brine (25 mL), dried over Na2SO4 and evaporated to dryness. The resulting residue was triturated and filtered twice from warm ethyl acetate/hexane (2:1, 15 mL) and ethyl acetate (6 mL). After drying, this afforded the title compound as a white solid (462 mg, 97%). MP=208-210° C. (d) MS(CI)340(m/e+1) NMR(d6-DMSO): 2.33(s,3H),3.79(s,2H), 6.92(dd,1H,J1=8.1Hz,J2=1.9Hz), 7.11(d,1H,J=8.2 Hz),7.24(app d, 3H), 7.43(d,2H,J=8.2Hz), 9.05(s,1H),11.99(s, 1H);

reactant | 7-chloro-4-hydroxy-2-(4′-methylphenyl)-1,2,5,10-tetrahydropyridazino[4,5-b]quinoline-1,10-dione | 1.4 mmol, 495 mg | ClC=1C=CC=2C(C3=C(NC2C1)C(=NN(C3=O)C3=CC=C(C=C3)C)O)=O | C18H12ClN3O3
reactant | trifluoroacetic acid | 58 mmol, 4.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium borohydride | 7.7 mmol, 290 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 7-Chloro-4-hydroxy-5,10-dihydro-2-(4′-methylphenyl)pyridazino[4,5-b]quinoline-1-one | 462 mg, 97% | ClC=1C=CC=2CC3=C(NC2C1)C(=NN(C3=O)C3=CC=C(C=C3)C)O | C18H14ClN3O2
